US08835432B2
A heterogeneous mixture of 3-(1-bromoethyl)-7-fluoroquinoxalin-2(1H)-one (58.86 g, 217.1 mmol) and phosphorous oxychloride (198.8 ml, 2171 mmol) in a 1 L round bottom flask was stirred at 100° C. for 2 h. The mixture was hetereogeneous in the beginning of the reaction and then homogenesous black solution over 1 h. After 2 h, the mixture was cooled to rt and concentrated under reduced pressure. To the black residue was carefully added ice (˜400 ml) in portions and then water (200 ml) with stirring. The mixture was neutralized with NH4OH (200 ml) and ice (˜200 ml) with stirring. The resulting precipitate was collected by filtration, rinsed with water (1 L), and dried under high vacuum overnight to give 2-(1-bromoethyl)-3-chloro-6-fluoroquinoxaline (58.31 g, 92.8% yield) including 3-chloro-2-(1-chloroethyl)-6-fluoroquinoxaline as a brown solid.

reactant | 3-(1-bromoethyl)-7-fluoroquinoxalin-2(1H)-one | 217.1 mmol, 58.86 g | BrC(C)C=1C(NC2=CC(=CC=C2N1)F)=O | C10H8BrFN2O
reactant | phosphorous oxychloride | 2171 mmol, 198.8 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-(1-bromoethyl)-3-chloro-6-fluoroquinoxaline | 58.31 g, 92.8% yield | BrC(C)C1=NC2=CC=C(C=C2N=C1Cl)F | C10H7BrClFN2
